.SUBCKT sg13g2_inv_32 Y A VDD VSS
*.PININFO A:I Y:O VDD:B VSS:B
MN0 Y A VSS VSS sg13_lv_nmos w=23.68u l=130.00n ng=32
MP0 Y A VDD VDD sg13_lv_pmos w=35.84u l=130.00n ng=32
.ENDS
